US04857660
1-(4-acetylaminophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione
A solution of 0.11 ml of acetic anhydride in 0.5 ml of tetrahydrofuran is added dropwise to a solution of 260 mg of 1-(4-aminophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione and 6 mg of 4-dimethylaminopyridine in 8 ml of tetrahydrofuran. After stirring at room temperature for 21/2 hours, two drops of ethanol are added to the reaction mixture and stirring is continued for a further 15 minutes. After concentration by evaporation and subsequent recrystallisation from ethyl acetate/petroleum ether, the title compound is obtained in the form of white crystals having a melting point of 138.5°-139.5°. Rf (methylene chloride/methanol/glacial acetic acid 40:5:1)=0.55.

reactant | acetic anhydride | 0.11 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-aminophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | 260 mg | NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CCC)=O | C15H18N2O2
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
catalyst | ethanol | two drops | C(C)O | C2H6O
product | 1-(4-acetylaminophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | C(C)(=O)NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CCC)=O | C17H20N2O3
